US05300506
Ethyl 3-[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]prop-1-yl]-2-trimethylsilyl-1H-indole-5-carboxylate
A mixture of ethyl 4-amino-3-iodobenzoate {Hirschfeld et al. J. Med Chem. 1992, 35, 2231-2238.} (7.80 g, 26.8 mmol), [5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-pentynyl]tri methylsilane (9.41 g, 34.8 mmol), tetra-n-butylammonium chloride (7.44 g, 26.8 mmol), sodium carbonate (14.20 g, .134 mol), triphenylphosphine (0.35 g, 1.3 mmol), and palladium (II) acetate (0.30 g, 1.3 mmol) in 200 mL of DMF, was heated at 98° C. under N2 for 2 h. The solution was cooled, and the bulk of the DMF was removed in vacuo. The mixture was diluted with ethyl acetate, and the organic solution was washed with aqueous NaHCO3, dried (brine, MgSO4), filtered, and concentrated in vacuo. Silica gel chromatography (10:1 hexanes-EtOAc) of the concentrate yielded the title compound (7.49 g, 65%) as a crystalline solid. Recrystallization from hexanes provided an analytical sample as a white crystalline solid: mp 115°-116° C. Anal. Calcd for C23H39N1O3Si2 : C 63.69; H, 9.06; N, 3.23. Found: C, 63.54; H, 9.11; N, 3.17.

reactant | ethyl 4-amino-3-iodobenzoate | NC1=C(C=C(C(=O)OCC)C=C1)I | C9H10INO2
reactant | [5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-pentynyl]tri methylsilane | 34.8 mmol, 9.41 g | CC(C)(C)[Si](OCCCC#C[Si](C)(C)C)(C)C | C14H30OSi2
reactant | sodium carbonate | .134 mol, 14.20 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetra-n-butylammonium chloride | 26.8 mmol, 7.44 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | palladium (II) acetate | 1.3 mmol, 0.30 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 1.3 mmol, 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Ethyl 3-[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]prop-1-yl]-2-trimethylsilyl-1H-indole-5-carboxylate | 7.49 g, 65% | CC(C)(C)[Si](OCCCC1=C(NC2=CC=C(C=C12)C(=O)OCC)[Si](C)(C)C)(C)C | C23H39NO3Si2
